US06613791B1
2,8-Dibromo-10,11-dihydro-5H-dibenz[b,f]azepine (1.41 g. 4.0 mmol, prepared according to K. Smith et al., Tetrahedron, 48, 7479 (1992)), was dissolved in toluene (25 ml). Triethylamine (0.60 ml, 4.4 mmol) and 3-chloropropionyl chloride (0.50 ml, 5.2 mmol) were added to thee stirred solution at room temperature. Stirring was continued at room temperature for 1 h and at reflux temperature for 2.5 h. The reaction mixture was cooled, filtered and evaporated in vacuo. The crude 3-chloro-1-(2,8-dibromo-10,11-dihydro-5H-dibenz[b,f]-azepine-5-yl)propan-1-one was used in the next step without further purification. A solution of lithium aluminium hydride (0.326 g, 8.56 mmol) in dry tetrahydrofuran (30 ml) was cooled in an ice bath and concentrated sulphuric acid (0.428 g, 4.28 mmol) was added dropwise. The solution was stirred at room temperature for 0.5 h. A solution of the above product (1.90 g, 4.28 mmol) was added dropwise and stirring was continued for 0.5 h. The reaction was then quenched by careful addition of ethyl acetate (5 ml) followed by water (0.8 ml). Filtration of the mixture and evaporation of the filtrate in vacuo afforded 1.51 g (82%) 2,8-dibromo-5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine as a foam, which was used in the next step without further purification.

reactant | 2,8-Dibromo-10,11-dihydro-5H-dibenz[b,f]azepine | 4.0 mmol, 1.41 g | BrC1=CC2=C(NC3=C(CC2)C=C(C=C3)Br)C=C1 | C14H11Br2N
reactant | Triethylamine | 4.4 mmol, 0.60 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropionyl chloride | 5.2 mmol, 0.50 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | lithium aluminium hydride | 8.56 mmol, 0.326 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulphuric acid | 4.28 mmol, 0.428 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,8-dibromo-5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 1.51 g, 82% | BrC1=CC2=C(N(C3=C(CC2)C=C(C=C3)Br)CCCCl)C=C1 | C17H16Br2ClN
